US09340549B2
A resealable tube was charged with (S)-5,5-dimethyl-4-phenyloxazolidin-2-one (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (1.01 g, 5.28 mmol), 1,4-diiodobenzene (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (3.48 g, 10.56 mmol), tribasic potassium phosphate (5.61 g, 26.4 mmol) and dioxane (20.0 mL). The mixture was purged with argon and then copper (I) iodide (1.006 g, 5.28 mmol) and N,N′-dimethylethylenediamine (1.137 mL, 10.56 mmol) were added. The system was purged with argon, the tube was sealed, and the reaction mixture was heated at 100° C. for 12 hours. The reaction mixture was filtered through Celite® brand filter aid and concentrated to afford a purple solid. This material was purified via column chromatography on silica gel (RediSep 80 g column, gradient elution with 0-25% EtOAc-hexane) to afford (S)-3-(4-iodophenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (1.271 g, 3.23 mmol, 61.2% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ=7.64-7.59 (m, 2H), 7.39-7.33 (m, 2H), 7.33-7.27 (m, 3H), 7.26-7.20 (m, 2H), 5.43 (s, 1H), 1.61 (s, 3H), 0.89 (s, 3H).

reactant | (S)-5,5-dimethyl-4-phenyloxazolidin-2-one | CC1([C@@H](NC(O1)=O)C1=CC=CC=C1)C | C11H13NO2
reactant | 1,4-diiodobenzene | IC1=CC=C(C=C1)I | C6H4I2
reactant | potassium phosphate | 26.4 mmol, 5.61 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 10.56 mmol, 1.137 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 5.28 mmol, 1.006 g | [Cu]I
solvent | dioxane | 20.0 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-iodophenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 3.23 mmol, 1.271 g, 61.2% yield | IC1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C17H16INO2
